* C:\Users\owend\OneDrive\Desktop\LCR_Meter\repo\LCR_Meter\simulation\TIA_stab.asc
* Generated by LTspice 26.0.1 for Windows.
V1 vdd 0 5
V2 vss 0 0
V3 N010 vcm AC 1
C2 N009 N010 1
E1 N008 vcm N001 vcm 1
R1 N009 N008 1Meg
C4 N004 0 10p
R3 N007 vcm {R}
C5 N001 N007 1p
X§U1 vcm N009 vdd vss N004 tlv916x ;§pnba In+)In-)V+)V-)OUT
X§U2 vdd v0 v1 N004 vss vdd NC_01 NC_02 NC_03 NC_04 N002 N003 N005 N006 NC_05 vss ADG709 ;§pnba Vdd)A0)A1)DB)Vss)EN)S1A)S2A)S3A)S4A)S1B)S2B)S3B)S4B)DA)GND
V4 vcm 0 2.5
R4 N006 N001 100k
V5 v1 0 5
V6 v0 0 5
R2 N005 N001 10k
R5 N003 N001 1k
R6 N002 N001 100
C1 N001 0 10p
C3 N006 N001 10p
.ac dec 10 1 1G
.param R=100k
.include tlv916x.txt
* Library below included based on ModelFile attribute of instance X§U2 (C:\Users\owend\AppData\Local\LTspice\lib\sym\Switches\ADG709.asy)
.lib ADG709.sub
.backanno
.end
