* C:\Users\owend\OneDrive\Desktop\LCR_Meter\repo\LCR_Meter\simulation\full_design\tb_dac_filter.asc
* Generated by LTspice 26.0.1 for Windows.
X§X1 VCM N003 N001 VDD N002 VSS dac_filter
V1 N001 VCM SINE(0 1 50000) AC 1
V2 VCM N003 SINE(0 1 50000) AC 1
V3 VDD VSS 5
V4 VSS 0 0
V5 VCM VSS 2.5

* block symbol definitions
.subckt dac_filter VCM VN VP VDD VOUT VSS
X§U1 N003 N002 VDD VSS VOUT tlv916x ;§pnba In+)In-)V+)V-)OUT
R1 N002 N001 3.3k
C1 VOUT N002 50p
R2 VOUT N001 8.2k
C2 N001 N004 100p
R3 N001 VN 10k
R4 N004 VP 10k
R5 N003 N004 3.3k
C3 VCM N003 50p
R6 N004 VCM 8.2k
.ends dac_filter

.include tlv916x.txt
* .ac dec 20 10 10Meg
.tran 0 100u 0 10n
.backanno
.end
