* C:\Users\owend\OneDrive\Desktop\LCR_Meter\repo\LCR_Meter\simulation\full_design\top_hierarchy.asc
* Generated by LTspice 26.0.1 for Windows.
V1 VDD VSS 5
X§X1 VDD VSS TIA_FB TIA_OUT N011 N009 VDD VSS VCM pga
V2 VSS 0 0
V3 VCM VSS 2.3
X§X2 VMID N013 N008 VDD N012 VSS dac_filter
V6 N008 VCM SINE(0 1 80000) AC 1
V7 VCM N013 SINE(0 1 80000) AC 1
X§U1 N012 N005 VDD VSS N005 tlv916x ;§pnba In+)In-)V+)V-)OUT
R1 N007 N006 100
R2 N007 N010 1k
R3 N007 N005 10k
R4 N007 N014 100k
X§U3 VMID2 TIA_FB VDD VSS TIA_OUT tlv916x ;§pnba In+)In-)V+)V-)OUT
X§U4 VDD RSEL0 RSEL1 TIA_OUT VSS VDD NC_01 NC_02 NC_03 NC_04 N001 N002 N003 N004 NC_05 VSS ADG709 ;§pnba Vdd)A0)A1)DB)Vss)EN)S1A)S2A)S3A)S4A)S1B)S2B)S3B)S4B)DA)GND
R5 TIA_FB N001 100
R6 TIA_FB N002 1k
R7 TIA_FB N003 10k
R8 TIA_FB N004 100k
C1 N004 TIA_FB 1p
C2 N003 TIA_FB 1p
V8 RSEL0 VSS 0
V9 RSEL1 VSS 5
E1 v_sns 0 VSNS TIA_FB 1
E2 i_sns 0 TIA_OUT TIA_FB 1
L1 VSNS N007 1µ Rser=1m
C4 0 TIA_FB 15p
E3 i_sns_pga 0 N009 N011 1
X§X3 VSS VSS TIA_FB VSNS N016 N015 VDD VSS VCM pga
E4 v_sns_pga 0 N015 N016 1
C5 N005 0 50p
C6 N006 0 15p
C7 N010 0 15p
X§U2 N017 VMID VDD VSS VMID tlv916x ;§pnba In+)In-)V+)V-)OUT
R9 VMID2 VMID 1k
C3 VMID2 VSS 100p
R10 VDD N017 10k
R11 N017 VSS 10k
C8 TIA_FB VSNS 100p

* block symbol definitions
.subckt pga A0 A1 VN VP OUTN OUTP VDD VSS VCM
R5 N008 N010 8.2k
R6 N010 N012 1.6k
R7 N012 N014 300
R8 N014 N015 100
X§U2 VDD A0 A1 VDD VSS VSS N002 N009 N011 N013 N004 N008 N010 N012 N014 N007 ADG1209 ;§pnba VDD)A0)A1)EN)VSS)GND)S1A)S2A)S3A)S4A)DA)S1B)S2B)S3B)S4B)DB
R9 N008 N007 10Meg
R10 N002 N004 10Meg
X§U3 VN N007 VDD VSS N008 OPA365 ;§pnba In+)In-)V+)V-)OUT
X§U4 VP N004 VDD VSS N002 OPA365 ;§pnba In+)In-)V+)V-)OUT
R11 N001 N002 1k
R12 N005 N008 1k
R13 OUTN N003 22
R14 OUTP N006 22
C1 N003 N001 470p
C2 N006 N005 470p
R15 OUTN N001 1k
R16 OUTP N005 1k
C3 OUTN OUTP 2.7n
C4 VCM VSS 100n
C5 N002 N004 2p
C6 N008 N007 2p
R1 N002 N009 8.2k
R2 N009 N011 1.6k
R3 N011 N013 300
R4 N013 N015 100
X§U1 N001 N005 VDD VSS N006 N003 VCM THS4561 ;§pnba IN+)IN-)VCC)VEE)OUT+)OUT-)VOCM
.ends pga

.subckt dac_filter VCM VN VP VDD VOUT VSS
X§U1 N003 N002 VDD VSS VOUT tlv916x ;§pnba In+)In-)V+)V-)OUT
R1 N002 N001 3.3k
C1 VOUT N002 50p
R2 VOUT N001 8.2k
C2 N001 N004 100p
R3 N001 VN 10k
R4 N004 VP 10k
R5 N003 N004 3.3k
C3 VCM N003 50p
R6 N004 VCM 8.2k
.ends dac_filter

.tran 0 .1m 0 10n
.include OPA365.txt
* .ac dec 50 10 10Meg
.include tlv916x.txt
* Library below included based on ModelFile attribute of instance X§U2 (C:\Users\owend\AppData\Local\LTspice\lib\sym\Switches\ADG1209.asy)
.lib ADG1209.sub
* Library below included based on ModelFile attribute of instance X§U4 (C:\Users\owend\AppData\Local\LTspice\lib\sym\Switches\ADG709.asy)
.lib ADG709.sub
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\owend\OneDrive\Desktop\LCR_Meter\repo\LCR_Meter\simulation\models\THS4561.asy)
.lib C:\Users\owend\OneDrive\Desktop\LCR_Meter\repo\LCR_Meter\simulation\models\ths4561.txt
.backanno
.end
